US04876257
6-Chloro-9-(tetrahydro-2-pyranyl)purine
To a warmed (60° C.) slurry of 6-chloropurine (20 g, 0.1294 mol) and p-toluenesulfonic acid monohydrate (0.35 g), dihydropyran (13.4 mL, 0.172 mol) was added with stirring over a period of 30 min. After an additional 30 min of heating, the mixture was allowed to cool to room temperature for 1 h. Concentrated ammonium hydroxide (12 mL) was added and stirring was continued for 5 min. The solution was washed with water (4×70 mL) and the organic layer was dried (Na2SO4), filtered and concentrated in vacuo to give a syrup (about 29 g) which slowly crystallized upon standing. Extraction with boiling hexane gave the product as a solid, 24.36 g in two crops (78%), mp 70°-71° C.

reactant | 6-chloropurine | 0.1294 mol, 20 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | dihydropyran | 0.172 mol, 13.4 mL | O1CCCC=C1 | C5H8O
reactant | ammonium hydroxide | 12 mL | [OH-].[NH4+]
catalyst | p-toluenesulfonic acid monohydrate | 0.35 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 6-Chloro-9-(tetrahydro-2-pyranyl)purine | about 29 g | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
